US06025497
A solution of sulfuryl chloride (0.66 g) and chloroform (2.0 ml) was added dropwise over a period of 1.5 hour to a stirred mixture of 2-(4,4-difluorobut-3-enylthio)thiazole (1.01 g), and dimethylformamide (10 ml) maintained at 45° C. under a nitrogen atmosphere and the resultant mixture stirred for a further 2.5 hour. A further aliquot of sulfuryl chloride (0.07 g) dissolved in chloroform (1.0 ml) was then added over 15 minutes and the mixture stirred at 45° C. for 16 hours. A third portion of sulfuryl chloride (0.07 g) in chloroform (1.0 ml) was added over 30 minutes with the mixture being stirred for a further 2 hours, following which a final portion of the sulfuryl chloride (0.07 g) in chloroform (1.0 ml) was added and the mixture stirred for a final period of 30 minutes. After cooling the reaction mixture to the ambient temperature water (20 ml) was added and the mixture extracted with hexane (25 ml). The pH of the aqueous portion was adjusted to pH7 with 10% sodium hydroxide solution and extracted with hexane (25 ml). The combined hexane extracts were washed with water (2×20 ml) and then dried over anhydrous magnesium sulfate. Removal of the solvent by evaporation under reduced pressure yielded of 5-chloro-2-(4,4-difluorobut-3-enylthio)thiazole (1.13 g, 88%), identical to the product of Example 3.

reactant | sulfuryl chloride | 0.66 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-(4,4-difluorobut-3-enylthio)thiazole | 1.01 g | FC(=CCCSC=1SC=CN1)F | C7H7F2NS2
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | sulfuryl chloride | 0.07 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 0.07 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 0.07 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 20 ml | O | H2O
solvent | chloroform | 1.0 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1.0 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1.0 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-2-(4,4-difluorobut-3-enylthio)thiazole | 1.13 g, 88% | ClC1=CN=C(S1)SCCC=C(F)F | C7H6ClF2NS2
